US07452894B2
6-(2-Furyl)-9-(3-nitrobenzyl)-9H-purine-2-amine (Example 158)
An ice-cold solution of 6-(2-furyl)1H-purine-2-amine (201 mg, 1 mmol) in DMF (6 mL) was treated with NaH (44 mg, 1.1 mmol), stirred for 30 min, treated with 3-nitrobenzyl bromide (238 mg, 1.1 mmol), stirred at room temperature for 3 h, treated with water and the resulting solid filtered, suspended in methanol, stilled for 30 min, and filtered to give the title compound (201 mg, 60%) as a yellow solid.

reactant | 6-(2-furyl)1H-purine-2-amine | 1 mmol, 201 mg | O1C(=CC=C1)C1=C2N=CN=C2N=C(N1)N | C9H7N5O
reactant | NaH | 1.1 mmol, 44 mg | [H-].[Na+]
reactant | 3-nitrobenzyl bromide | 1.1 mmol, 238 mg | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
reactant | water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 6-(2-Furyl)-9-(3-nitrobenzyl)-9H-purine-2-amine | 201 mg, 60% | O1C(=CC=C1)C1=C2N=CN(C2=NC(=N1)N)CC1=CC(=CC=C1)[N+](=O)[O-] | C16H12N6O3
